* RS2 bloco A: vout1 = -9*vin1 - 2.8*vin2 + 2.5*vin3 (21101175)
.include lm741_level1.lib
RA1 in1 suma2 11.1111k
RA2 in2 suma2 33.3333k
RAR vee suma2 7.5Meg
RA3 va suma2 100k
XA2 0 suma2 vcc vee vout1 LM741_LEVEL1
RAF2 suma2 vout1 100k
RA4 in3 suma1 10k
XA1 0 suma1 vcc vee va LM741_LEVEL1
RAF1 suma1 va 25k
VIN1 in1 0 SINE(0 0.1 300)
VIN2 in2 0 SINE(0 0.2 700)
VIN3 in3 0 SINE(0 0.4 1300)
RL vout1 0 10k
VCC vcc 0 15
VEE vee 0 -15
BIDEAL1 ideal1 0 V=-9*V(in1)-3*V(in2)+2.5*V(in3)+0.2
.tran 0 20m 0 10u
.meas TRAN vout1_max MAX V(vout1)
.meas TRAN err1_max MAX abs(V(vout1)-V(ideal1))
.end
